data/mechanism_extracts/ChemSelect/10.1002_slct.202503086.json
{"doi": "10.1002_slct.202503086", "journal": "ChemSelect", "is_review": false, "rxn_class_summary": "Electrochemical oxyselenation of carbamate- and benzoate-tethered terminal alkenes with diphenyl diselenide to deliver β-hydroxyselenides via an anodically generated selenium electrophile and intramolecular cyclic seleniranium intermediate opened by water.", "mechanism_family": ["cation_initiated", "mediator_anodic", "paired_electrolysis"], "electrochemical_role": "Anodic single-electron oxidation of PhSeSePh to a selenonium radical cation (A) which fragments to PhSe• (B) and PhSe+ (C); the cathode reduces protons to H2.", "key_intermediates": [{"name": "PhSeSePh radical cation (A)", "smiles": "[Se+](c1ccccc1)([Se][c2ccccc2])", "role": "transient"}, {"name": "Phenylselenyl radical (B)", "smiles": "[Se]c1ccccc1", "role": "off_pathway"}, {"name": "Phenylselenyl cation (C)", "smiles": "[Se+]c1ccccc1", "role": "reactive"}, {"name": "Six-membered seleniranium/cyclic selenonium intermediate (D) from intramolecular carbamate-O assistance", "smiles": null, "role": "reactive"}, {"name": "β-Hydroxyselenide product 3a", "smiles": "O=C(NS(=O)(=O)c1ccc(C)cc1)OCC(O)C[Se]c2ccccc2", "role": "reactive"}], "electron_flow": "PhSeSePh is oxidized at the graphite anode to a radical cation that splits into PhSe• and PhSe+; the electrophilic PhSe+ adds to the tethered alkene with anchimeric assistance from the carbamate/ester oxygen to form a six-membered cyclic selenonium ion D, which is opened by water/hydroxide to give the β-hydroxyselenide while protons are reduced to H2 at the Pt cathode.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Product 3a still formed in 65% yield, indicating the productive pathway is not radical."}, {"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Product 3a still obtained in 49% yield, supporting a non-radical (cationic) pathway."}, {"name": "Cyclohexene (6)", "smiles": "C1CCCCC=1", "purpose": "intermediate_trap", "observation": "No β-hydroxyselenide product 8 formed; non-tethered simple alkenes are unreactive, supporting the need for an intramolecular nucleophile to form intermediate D."}, {"name": "Allylbenzene (7)", "smiles": "C=CCc1ccccc1", "purpose": "intermediate_trap", "observation": "No desired product 9, again indicating tether-assisted seleniranium opening is required."}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "isolation_of_intermediate", "other"], "evidence_strength": "medium", "notes": "Substrate-scope failures (cyano, nitro, dimethylcarbamate, cinnamyl) are rationalized by competing cathodic reduction of EWGs or anodic oxidation of N-methyl groups rather than by a change in mechanism. X-ray structure of 3j (CCDC 2408983) confirms the β-hydroxyselenide regiochemistry consistent with seleniranium-opening pathway. A radical chain involving PhSe• cannot be fully excluded but is disfavored by TEMPO/BHT results."}
